US04045439
Methanesulphonic anhydride (1.392 g.) was added to a solution of ethyl 6-amino-4-hydroxycinnolin-3-yl carboxylate (0.932 g.) in dry pyridine (20 ml.), and the mixture was stirred at room temperature overnight. The resulting solution was poured into ether (500 ml.) and the amorphous solid which precipitated was filtered off and applied to a silica column (100 g. Kieselgel 60). Elution with a mixture of 15% v/v ethanol and 85% v/v chloroform, and evaporation of the appropriate fractions gave ethyl 4-hydroxy-6-(methanesulphonylamino)cinnolin-3-yl carboxylate, m.p. 274°-5° C.

reactant | Methanesulphonic anhydride | 1.392 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | ethyl 6-amino-4-hydroxycinnolin-3-yl carboxylate | 0.932 g | NC=1C=C2C(=C(N=NC2=CC1)C(=O)OCC)O | C11H11N3O3
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 4-hydroxy-6-(methanesulphonylamino)cinnolin-3-yl carboxylate | OC1=C(N=NC2=CC=C(C=C12)NS(=O)(=O)C)C(=O)OCC | C12H13N3O5S
